US05643878
a: 4-(Dimethylamino)butyryl Chloride Hydrochloride
10 g (60 mmol) of 4-dimethylaminobutyric acid hydrochloride (Janssen; Bruggen/Germany) are heated for approximately 3 h at 65° C. in 30 ml of SOCl2. SOCl2 is evaporated off and the residue is stirred to yield the title compound: TLC of a sample dissolved in methanol, Rf (U)=0.67; TLC of 4-dimethylaminobutyric acid hydrochloride, Rf (U)=0.50.

reactant | 4-dimethylaminobutyric acid hydrochloride | 60 mmol, 10 g | Cl.CN(CCCC(=O)O)C
solvent | SOCl2 | 30 ml | O=S(Cl)Cl | Cl2OS
product | 4-(Dimethylamino)butyryl Chloride Hydrochloride | Cl.CN(CCCC(=O)Cl)C | InChI=1S/C6H12ClNO.ClH/c1-8(2)5-3-4-6(7)9;/h3-5H2,1-2H3;1H
